### PR TITLE
[Merged by Bors] - feat(RingTheory/Polynomial/HilbertPoly): the definition and key property of `Polynomial.hilbertPoly p d` for `p : F[X]` and `d : ℕ`, where `F` is a field.

### PR DESCRIPTION
**Pull request by FMLJohn**
Given any field `F`, polynomial `p : F[X]` and natural number `d`, we have defined `Polynomial.hilbertPoly p d : F[X]`. If `F` is of characteristic zero, then for any large enough `n : ℕ`, `PowerSeries.coeff F n (p * (invOneSubPow F d))` equals `(hilbertPoly p d).eval (n : F)` (see `Polynomial.coeff_mul_invOneSubPow_eq_hilbertPoly_eval`).

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 1]
```diff
@@ -0,0 +1,93 @@
...
+    cast_div (factorial_mul_factorial_dvd_factorial_add ..) (cast_ne_zero.2 <| mul_ne_zero
+    (n - k).factorial_ne_zero d.factorial_ne_zero), cast_mul, div_mul_eq_div_div, div_eq_inv_mul,
+    mul_eq_mul_left_iff, ← cast_div (factorial_dvd_factorial <| Nat.le_add_right (n - k) d)
+    (cast_ne_zero.2 <| factorial_ne_zero (n - k)), ← ascFactorial_eq_div]
+  simp_rw [eval_add, eval_sub, eval_X, eval_natCast, eval_one, ascFactorial_eq_prod_range,
+    cast_prod, cast_add, cast_one, Nat.cast_sub hkn, add_assoc, add_comm, true_or]
+
+/--
+Given `p : ℤ[X]` and `d : ℕ`, the Hilbert polynomial of `p` and `d`. Later we will
+show that `PowerSeries.coeff ℤ n (p * (PowerSeries.invOneSubPow ℤ d))` is equal to
```
Comment (erdOne) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:83]: I think it would be better to get this result in this PR as well, to make sure that this is actually the right definition.

Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean:83]: I have already proved the statement in the Visual Studio Code of my computer, so I can guarantee that the definition has no problem. But the proof is very long. I'm afraid that if I also include the proof in this PR, then it may not be so easy to be merged to Mathlib 4. I plan to include the proof of the statement in some other PR.

But that is only my own opinion. I'm not sure if my plan is good. What's your opinion?

Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean:83]: > I think it would be better to get this result in this PR as well, to make sure that this is actually the right definition.

I have already proved the statement in the Visual Studio Code of my computer, so I can guarantee that the definition has no problem. But the proof is very long. I'm afraid that if I also include the proof in this PR, then it may not be so easy to be merged to Mathlib 4. I plan to include the proof of the statement in some other PR.

But that is only my own opinion. I'm not sure if my plan is good. What's your opinion?

Comment (mattrobball) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean:83]: Please make a separate PR dependent on this one. That one may eventually be split but the reviewers can have a fuller picture

Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean:83]: > Please make a separate PR dependent on this one. That one may eventually be split but the reviewers can have a fuller picture

I have created a new PR #19404 in which I have proved the key property of Hilbert polynomials. I have also marked #19404 as dependent on #19303.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+
+end greatestFactorOneSubNotDvd
+
+/--
+A polynomial which makes it easier to define the Hilbert polynomial. See also the theorem
+`Polynomial.preHilbert_eq_choose_sub_add`, which states that for any `d k n : ℕ` with `k ≤ n`,
+`(Polynomial.preHilbert d k).eval (n : ℚ) = (n - k + d).choose d`.
+-/
+noncomputable def preHilbert (d k : ℕ) : ℚ[X] :=
+  (d.factorial : ℚ)⁻¹ • (∏ i : Finset.range d, (X - (C (k : ℚ)) + (C (i : ℚ)) + 1))
```
Comment (erdOne) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:67]: I wonder whether you can more API if you define the product as `(ascPochhammer S _).comp (X + _)` or `(ascPochhammer S _).taylor _` instead

File: Mathlib/RingTheory/PowerSeries/WellKnown.lean [hunk 3]
```diff
@@ -152,10 +152,9 @@ theorem invOneSubPow_inv_eq_one_sub_pow :
   | zero => exact Eq.symm <| pow_zero _
   | succ d => rfl
 
-theorem invOneSubPow_inv_eq_one_of_eq_zero (h : d = 0) :
-    (invOneSubPow S d).inv = 1 := by
+theorem invOneSubPow_inv_zero_eq_one : (invOneSubPow S 0).inv = 1 := by
   delta invOneSubPow
-  simp only [h, Units.inv_eq_val_inv, inv_one, Units.val_one]
+  simp only [Units.inv_eq_val_inv, inv_one, Units.val_one]
```
Comment (erdOne) [inline Mathlib/RingTheory/PowerSeries/WellKnown.lean:157]: Can you add a new lemma instead of changing the old one?

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+  generated modules over `A₀`, we have `λ(O) = λ(N) + λ(P)`. Then the Poincaré series of `M` in
+  terms of `λ` is the formal power series `P(M, λ, X) = Σₙλ(Mₙ)Xⁿ`. The Hilbert-Serre Theorem states
+  that `P(M, λ, X)` can be written as `p(X)/∏ᵢ₌₁,...,ₛ(1 - X ^ dᵢ)`, where `p(X)` is a polynomial
+  with coefficients in `ℤ`.
+* For the case when `d₁,...,dₛ = 1`, the Poincaré series of `M` with respect to `λ` can be expressed
+  as `p(X)/(1 - X)ˢ`. Hence the fact stated in the beginning guarantees an `h : ℚ[X]` such that for
+  any large enough `n : ℕ`, the coefficient of `Xⁿ` in `P(M, λ, X)` equals `h.eval (n : ℚ)`. This
+  `h` is called the Hilbert polynomial of `M` in terms of `λ`, which is what we eventually want to
+  formalise.
+-/
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:37]: Most of this module docstring is nothing to do with what is in the file. Also, the docstring does not follow the guidelines for module docstrings https://leanprover-community.github.io/contribute/doc.html at all. Here is a suggestion for a better module docstring. 

```
/-!
# Hilbert polynomials

In this file, we formalise the following statement: given any `p : ℤ[X]` and `d : ℕ`, there exists
some `h : ℚ[X]` such that for any large enough `n : ℕ`, `h(n)` is equal to the coefficient of `Xⁿ`
in the power series expansion of `p/(1 - X)ᵈ`. This `h` is unique and is called the
Hilbert polynomial of `p` and `d` (`Polynomial.hilbert p d`).

## Main definitions

* `Polynomial.hilbert p d`. If `p : ℤ[X]` and `d : ℕ` then `Polynomial.hilbert p d : ℚ[X]`
  is the polynomial whose value at `n` equals the coefficient of `Xⁿ` in the power
  series expansion of `p/(1 - X)ᵈ`

## TODO

* Prove that `Polynomial.hilbert p d : ℚ[X]` is the polynomial whose value at `n` equals the
coefficient of `Xⁿ` in the power series expansion of `p/(1 - X)ᵈ`

* Hilbert polynomials of graded modules.
-/
```

Also, it is not clear to me why you restrict to `p : ℤ[X]` when clearly `p : ℚ[X]` would work just as well. In fact why not do `p : k[X]` for `k` any field?

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 5]
```diff
@@ -0,0 +1,92 @@
...
+Given `p : ℤ[X]` and `d : ℕ`, the Hilbert polynomial of `p` and `d`. Later we will
+show that `PowerSeries.coeff ℤ n (p * (PowerSeries.invOneSubPow ℤ d))` is equal to
+`(Polynomial.hilbert p d).eval (n : ℚ)` for any large enough `n : ℕ`, which is the
+key property of the Hilbert polynomial.
+-/
+noncomputable def hilbert (p : ℤ[X]) (d : ℕ) : ℚ[X] :=
+  if h : p = 0 then 0
+  else if d ≤ p.rootMultiplicity 1 then 0
+  else ∑ i in Finset.range ((greatestFactorOneSubNotDvd p h).natDegree + 1),
+  ((greatestFactorOneSubNotDvd p h).coeff i) * preHilbert (d - (p.rootMultiplicity 1) - 1) i
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:90]: My guess is that you are making life very hard for yourself with this definition. You already have the result when `p = 1` from your previous work. Call this polynomial h_d. Now the general polynomial for p=sum a_n X^n is just sum a_n * h_d(X-n) and that's it. There's no need to split into cases or to split on the number of times (X-1) goes into p. A cleaner definition will make for cleaner proofs.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean (hunk 2 above)
Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean]: > I wonder whether you can more API if you define the product as `(ascPochhammer S _).comp (X + _)` or `(ascPochhammer S _).taylor _` instead

Thank you! I have changed the definition into `(d.factorial : ℚ)⁻¹ • ((ascPochhammer ℚ d).comp (X - (C (k : ℚ)) + 1))`, and consequently the proof of `preHilbert_eq_choose_sub_add` has become significantly shorter!

File: Mathlib/RingTheory/PowerSeries/WellKnown.lean (hunk 3 above)
Comment (FMLJohn) [reply Mathlib/RingTheory/PowerSeries/WellKnown.lean:157]: > Can you add a new lemma instead of changing the old one?

I feel that the new theorem I have created is good enough to replace the old one.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean (hunk 5 above)
Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean:82]: > My guess is that you are making life very hard for yourself with this definition. You already have the result when `p = 1` from your previous work. Call this polynomial h_d. Now the general polynomial for p=sum a_n X^n is just sum a_n * h_d(X-n) and that's it. There's no need to split into cases or to split on the number of times (X-1) goes into p. A cleaner definition will make for cleaner proofs.

The reason I have written the definition by dividing into different cases is that later we will have a theorem (that can be accessed in #19404):
```
theorem natDegree_hilbert (p : ℤ[X]) (d : ℕ) (hh : hilbert p d ≠ 0) :
    (hilbert p d).natDegree = d - p.rootMultiplicity 1 - 1 := ...
```
which specifies the degree of any non-zero Hilbert polynomial. If I don't write the definition into cases, then I'm afraid that the proof of `natDegree_hilbert` would be more complicated.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean (hunk 4 above)
Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean]: > Most of this module docstring is nothing to do with what is in the file. Also, the docstring does not follow the guidelines for module docstrings https://leanprover-community.github.io/contribute/doc.html at all. Here is a suggestion for a better module docstring.
> 
> ```
> /-!
> # Hilbert polynomials
> 
> In this file, we formalise the following statement: given any `p : ℤ[X]` and `d : ℕ`, there exists
> some `h : ℚ[X]` such that for any large enough `n : ℕ`, `h(n)` is equal to the coefficient of `Xⁿ`
> in the power series expansion of `p/(1 - X)ᵈ`. This `h` is unique and is called the
> Hilbert polynomial of `p` and `d` (`Polynomial.hilbert p d`).
> 
> ## Main definitions
> 
> * `Polynomial.hilbert p d`. If `p : ℤ[X]` and `d : ℕ` then `Polynomial.hilbert p d : ℚ[X]`
>   is the polynomial whose value at `n` equals the coefficient of `Xⁿ` in the power
>   series expansion of `p/(1 - X)ᵈ`
> 
> ## TODO
> 
> * Prove that `Polynomial.hilbert p d : ℚ[X]` is the polynomial whose value at `n` equals the
> coefficient of `Xⁿ` in the power series expansion of `p/(1 - X)ᵈ`
> 
> * Hilbert polynomials of graded modules.
> -/
> ```
> 
> Also, it is not clear to me why you restrict to `p : ℤ[X]` when clearly `p : ℚ[X]` would work just as well. In fact why not do `p : k[X]` for `k` any field?

I have figured out a way to generalise my work to any field `F` with `CharZero F`, but I'm not sure if the generalised version of my codes will still fit well with @jjaassoonn's work in #9819? In his statement of the Hilbert-Serre Theorem, the polynomial `p` in the expression `p/(1 - X)ᵈ` is assumed to be in `ℤ[X]`. Then I guess I need to find some way to let Lean know that `ℤ[X]` is a subset of `ℚ[X]`.

Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean]: > You can just `Polynomial.map` it into `ℚ[X]`

OK I have pushed the generalised version of my codes.

File: scripts/noshake.json [hunk 6]
```diff
@@ -317,14 +317,15 @@
   "Mathlib.RingTheory.PowerSeries.Basic":
   ["Mathlib.Algebra.CharP.Defs", "Mathlib.Tactic.MoveAdd"],
   "Mathlib.RingTheory.PolynomialAlgebra": ["Mathlib.Data.Matrix.DMatrix"],
+  "Mathlib.RingTheory.Polynomial.Hilbert":
+  ["Mathlib.RingTheory.PowerSeries.WellKnown"],
```
[the remark this answers is not in the document]
Comment (FMLJohn) [reply scripts/noshake.json:321]: > What are these changes about? Should you be shaking the file rather than announcing you're not shaking it?

I'm not sure. After I pushed my work for the first time, the CI was not successful and the error message says that I need to remove some unused imports. But after I removed the "unused" imports, my files stopped compiling anymore. So I ran `lake exe shake --update` as advised, and my PR passed the CI.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 7]
```diff
@@ -0,0 +1,90 @@
...
+  (d.factorial : F)⁻¹ • ((ascPochhammer F d).comp (X - (C (k : F)) + 1))
+
+theorem preHilbert_eq_choose_sub_add (d k n : ℕ) (hkn : k ≤ n):
+    (preHilbert F d k).eval (n : F) = (n - k + d).choose d := by
+  rw [preHilbert, eval_smul, eval_comp, map_natCast, eval_add, eval_sub, eval_X, eval_natCast,
+    eval_one, smul_eq_mul, ← cast_sub hkn, ← cast_add_one, ← ascPochhammer_eval_cast,
+    ascPochhammer_nat_eq_ascFactorial, ascFactorial_eq_factorial_mul_choose, cast_mul,
+    ← mul_assoc]
+  simp only [isUnit_iff_ne_zero, ne_eq, Ne.symm <| @NeZero.ne' _ _ _ <| @NeZero.charZero _ _
+    ⟨factorial_ne_zero d⟩ .., not_false_eq_true, IsUnit.inv_mul_cancel, one_mul]
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:73]: This proof (due to Yael) is nicer:

```suggestion
-- This needs to go in the right place, e.g. near `ascPochhammer_nat_eq_ascFactorial`
theorem ascPochhammer_nat_eq_natCast_ascFactorial (S : Type*) [Semiring S] (n k : ℕ) :
    (ascPochhammer S k).eval (n : S) = n.ascFactorial k := by
  norm_cast
  rw [ascPochhammer_nat_eq_ascFactorial]

theorem preHilbert_eq_choose_sub_add (d k n : ℕ) (hkn : k ≤ n):
    (preHilbert F d k).eval (n : F) = (n - k + d).choose d := by
  have : ((d ! : ℕ) : F) ≠ 0 := by norm_cast; positivity
  calc
  _ = (↑d !)⁻¹ * eval (↑(n - k + 1)) (ascPochhammer F d) := by simp [cast_sub hkn, preHilbert]
  _ = (n - k + d).choose d := by
    rw [ascPochhammer_nat_eq_natCast_ascFactorial];
    field_simp [ascFactorial_eq_factorial_mul_choose]
```

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 8]
```diff
@@ -0,0 +1,90 @@
...
+
+variable {F}
+
+/--
+Given `p : F[X]` and `d : ℕ`, the Hilbert polynomial of `p` and `d`. Later we will
+show that `PowerSeries.coeff F n (p * (PowerSeries.invOneSubPow F d))` is equal to
+`(Polynomial.hilbert p d).eval (n : F)` for any large enough `n : ℕ`, which is the
+key property of the Hilbert polynomial.
+-/
+noncomputable def hilbert (p : F[X]) (d : ℕ) : F[X] :=
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:83]: I'm not 100% sure that this is the same definition, but here's what I'm proposing:
```lean
/--
Given `p : F[X]` and `d : ℕ`, the Hilbert polynomial of `p` and `d`.
If `p/(1-t)^d` is the Poincaré series of a graded module `M` then
`hilbert p d` is the Hilbert polynomial of this module.
-/
noncomputable def hilbert (p : F[X]) (d : ℕ) : F[X] :=
  ∑ i in p.support,
  (p.coeff i) • preHilbert F (d - 1) i

lemma hilbert_zero (d : ℕ): hilbert (0 : F[X]) d = 0 := by simp [hilbert]

-- is this true?
lemma hilbert_succ (p : F[X]) (d : ℕ) : hilbert (p * (X + 1)) (d + 1) = hilbert p d := sorry
```
and hopefully this definition of `hilbert` is (a)  the same as what you wrote above and (b) easier to work with?

Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean:83]: > I'm not 100% sure that this is the same definition, but here's what I'm proposing:
> 
> ```lean
> /--
> Given `p : F[X]` and `d : ℕ`, the Hilbert polynomial of `p` and `d`.
> If `p/(1-t)^d` is the Poincaré series of a graded module `M` then
> `hilbert p d` is the Hilbert polynomial of this module.
> -/
> noncomputable def hilbert (p : F[X]) (d : ℕ) : F[X] :=
>   ∑ i in p.support,
>   (p.coeff i) • preHilbert F (d - 1) i
> 
> lemma hilbert_zero (d : ℕ): hilbert (0 : F[X]) d = 0 := by simp [hilbert]
> 
> -- is this true?
> lemma hilbert_succ (p : F[X]) (d : ℕ) : hilbert (p * (X + 1)) (d + 1) = hilbert p d := sorry
> ```
> 
> and hopefully this definition of `hilbert` is (a) the same as what you wrote above and (b) easier to work with?

I have just noticed that this new definition is not correct. Suppose `p` is not divisible by `1 - X` and `d = 0`, then `p * (invOneSubPow F d)` will be a polynomial so we want `hilbert p d` to be the zero polynomial. However, according to our new definition, `hilbert p d = ∑ i in p.support, (p.coeff i) • preHilbert F (d - 1) i = ∑ i in p.support, (p.coeff i) • preHilbert F 0 i = ∑ i in p.support, (p.coeff i) ≠ 0`, where the second equality holds by the definition of the `-` operation on `ℕ`, and the inequality holds because `p` is not divisible by `1`.

So I have come up with the following idea:
```
noncomputable def hilbert (p : F[X]) (d : ℕ) : F[X] :=
  if d = 0 then 0
  else ∑ i in p.support, (p.coeff i) • preHilbert F (d - 1) i
```
This may not look so beautiful as we originally expected, but it is the best idea I can come up with.

What do you think? @erdOne

**Comment by FMLJohn** [comment]
@erdOne After Kevin and I agreed on what the new definition of `Polynomial.hilbert` should be, I found that the proof of `PowerSeries.coeff_mul_invOneSubPow_eq_hilbert_eval` has become much shorter. Hence I have changed my mind and decided to include `PowerSeries.coeff_mul_invOneSubPow_eq_hilbert_eval` in this pull request.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean (hunk 8 above)
Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean]: > I'm not 100% sure that this is the same definition, but here's what I'm proposing:
> 
> ```lean
> /--
> Given `p : F[X]` and `d : ℕ`, the Hilbert polynomial of `p` and `d`.
> If `p/(1-t)^d` is the Poincaré series of a graded module `M` then
> `hilbert p d` is the Hilbert polynomial of this module.
> -/
> noncomputable def hilbert (p : F[X]) (d : ℕ) : F[X] :=
>   ∑ i in p.support,
>   (p.coeff i) • preHilbert F (d - 1) i
> 
> lemma hilbert_zero (d : ℕ): hilbert (0 : F[X]) d = 0 := by simp [hilbert]
> 
> -- is this true?
> lemma hilbert_succ (p : F[X]) (d : ℕ) : hilbert (p * (X + 1)) (d + 1) = hilbert p d := sorry
> ```
> 
> and hopefully this definition of `hilbert` is (a) the same as what you wrote above and (b) easier to work with?

Both `hilbert_zero` and `hilbert_succ` turned out to be correct, but the proof of `hilbert_succ` is not so short. As I have decided to include `PowerSeries.coeff_mul_invOneSubPow_eq_hilbert_eval` (i.e. the key property of `Polynomial.hilbert`) in this pull request, I plan to do `hilbert_succ` in some other pull request.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 9]
```diff
@@ -0,0 +1,105 @@
...
+-/
+
+open Nat PowerSeries
+
+variable (F : Type*) [Field F]
+
+namespace Polynomial
+
+/--
+For any field `F` and natrual numbers `d` and `k`, `Polynomial.preHilbert F d k` is defined as
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:38]:
```suggestion
For any field `F` and natural numbers `d` and `k`, `Polynomial.preHilbert F d k` is defined as
```

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 10]
```diff
@@ -0,0 +1,105 @@
...
+`(d.factorial : F)⁻¹ • ((ascPochhammer F d).comp (X - (C (k : F)) + 1))`. This is the most basic
+form of Hilbert polynomials. `Polynomial.preHilbert ℚ d 0` is exactly the Hilbert polynomial of
+the polynomial ring `ℚ[X_0,...,X_d]` viewed as a graded module over itself. See also the theorem
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:41]: Is it also true that `Polynomial.preHilbert F d k` is equal to `Polynomial.hilbert` of something? Perhaps you should mention that too.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 11]
```diff
@@ -0,0 +1,105 @@
...
+        exact le_trans (le_natDegree_of_ne_zero <| mem_support_iff.1 i.2) (le_of_lt hn)]
+      rw [Finset.sum_coe_sort _ (fun x => (p.coeff ↑x) * (_ + d - ↑x).choose _),
+        PowerSeries.coeff_mul, Finset.Nat.sum_antidiagonal_eq_sum_range_succ_mk,
+        invOneSubPow_val_eq_mk_sub_one_add_choose_of_pos _ _ (zero_lt_succ d)]
+      simp only [coeff_coe, coeff_mk]
+      exact Eq.symm <| Finset.sum_subset_zero_on_sdiff (fun s hs => Finset.mem_range_succ_iff.mpr
+        <| le_trans (le_natDegree_of_ne_zero <| mem_support_iff.1 hs) (le_of_lt hn)) (fun x hx => by
+        simp only [Finset.mem_sdiff, mem_support_iff, not_not] at hx; rw [hx.2, zero_mul])
+        (fun x hx => by rw [add_comm, Nat.add_sub_assoc <| le_trans (le_natDegree_of_ne_zero <|
+        mem_support_iff.1 hx) (le_of_lt hn), succ_eq_add_one, add_tsub_cancel_right])
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:103]: Oh come on, have mercy on the people who will have to refactor the proof when it breaks. There is no reason to use any semicolons, bytes are cheap. I really don't like `rw [show something with a three line proof in the middle of the rewrite, which uses more rewrites]`, just `have h :=` the thing you want to rewrite, prove it, and `rw [h]`. Similarly surely `exact Eq.symm <| (some lemma with nontrivial inputs)` would just be better written as `apply`ing the lemma and then solving all the intermediate goals. This sort of proof will randomly break one day and then it will be the job of the poor person who has to fix it to unravel this mess.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 12]
```diff
@@ -0,0 +1,105 @@
...
+`(d.factorial : F)⁻¹ • ((ascPochhammer F d).comp (X - (C (k : F)) + 1))`. This is the most basic
+form of Hilbert polynomials. `Polynomial.preHilbert ℚ d 0` is exactly the Hilbert polynomial of
+the polynomial ring `ℚ[X_0,...,X_d]` viewed as a graded module over itself. See also the theorem
+`Polynomial.preHilbert_eq_choose_sub_add`, which states that if `CharZero F`, then for any
+`d k n : ℕ` with `k ≤ n`, `(Polynomial.preHilbert F d k).eval (n : F) = (n - k + d).choose d`.
+-/
+noncomputable def preHilbert (d k : ℕ) : F[X] :=
+  (d.factorial : F)⁻¹ • ((ascPochhammer F d).comp (X - (C (k : F)) + 1))
+
+theorem preHilbert_eq_choose_sub_add [CharZero F] (d k n : ℕ) (hkn : k ≤ n):
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:48]: `k` and `n` should be implicit because you have `hkn`.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 13]
```diff
@@ -0,0 +1,105 @@
...
+import Mathlib.RingTheory.PowerSeries.WellKnown
+import Mathlib.Tactic.FieldSimp
+
+/-!
+# Hilbert polynomials
+
+In this file, we formalise the following statement: if `F` is a field with characteristic `0`, then
+given any `p : F[X]` and `d : ℕ`, there exists some `h : F[X]` such that for any large enough
+`n : ℕ`, `h(n)` is equal to the coefficient of `Xⁿ` in the power series expansion of `p/(1 - X)ᵈ`.
+This `h` is unique and is denoted as `Polynomial.hilbert p d`.
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean:18]: Mathlib has a notion of a `BinomialRing`, which is a ring in which `r (r - 1) .. (r - n + 1)` is divisible by `n!` for all `r : R`. This was formalised by @ScottCarnahan. Scott: any thoughts?

File: Mathlib/RingTheory/Polynomial/Hilbert.lean (hunk 11 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean:103]: [NB Fangming and I just had an offline discussion about how to tidy this proof up; he has a much more comprehensible version incoming]

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 14]
```diff
@@ -0,0 +1,105 @@
...
+
+## Main definitions
+
+* `Polynomial.hilbert p d`. Given a field `F`, a polynomial `p : F[X]` and a natural number `d`, if
```
[the remark this answers is not in the document]
Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean]: > I am concerned that "the Hilbert polynomial of a polynomial" is not standard usage in the literature. For me, it's a graded module which has a Hilbert polynomial (or a coherent sheaf on a projective scheme). So if you "steal" the name `Polynomial.hilbert` to be a function on polynomials, what are we going to call the actual Hilbert polynomial? Hmm, maybe something like `GradedAlgebra.Polynomial.hilbert`? or something? But there will still be namespace clashes if the namespace is open. This is really the Hilbert polynomial of a rational function. Maybe `RatFunc.Polynomial.hilbert` is a better name, so we can avoid these problems later?

I have already changed `Polynomial.preHilbert` into `RatFunc.Polynomial.preHilbert` and `Polynomial.hilbert` into `RatFunc.Polynomial.hilbert`. So may I close this conversation now?

File: Mathlib/RingTheory/Polynomial/Hilbert.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (ScottCarnahan) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean]: In principle, this statement could be refined using something like the ring of integer-valued polynomials (not formalized), which is generated as a subring of `Q[X]` by `\binom{X}{n}` (not formalized), and is also the universal commutative binomial ring on one generator (not formalized). I suppose we would have to generalize "integer" to "some fixed binomial subdomain of `F`" here. Anyway, we're not particularly close at this time.

**Comment by kbuzzard** [comment]
Thanks a lot for your work on this!

maintainer merge

File: Mathlib/RingTheory/Polynomial/Hilbert.lean [hunk 15]
```diff
@@ -0,0 +1,133 @@
...
+  | d + 1 => ∑ i in p.support, (p.coeff i) • preHilbert F d i
+
+variable (F) in
+lemma hilbert_zero_nat (d : ℕ) : hilbert (0 : F[X]) d = 0 := by
+  delta hilbert; induction d with
+  | zero => simp only
+  | succ d _ => simp only [coeff_zero, zero_smul, Finset.sum_const_zero]
+
+lemma hilbert_poly_zero (p : F[X]) : hilbert p 0 = 0 := by
+  delta hilbert; simp
```
Comment (erdOne) [inline Mathlib/RingTheory/Polynomial/Hilbert.lean:93]:
```suggestion
lemma hilbert_poly_zero (p : F[X]) : hilbert p 0 = 0 := rfl
```
Can you add `hilbert_poly_succ` and the fact that it is `F`-linear?

File: Mathlib/RingTheory/Polynomial/Hilbert.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean]: I have a definition for integer valued polynomial and some basic properties at [here](https://jjaassoonn.github.io/DimensionTheory/docs/DimensionTheory/IntegerValuedPolynomial.html)

File: Mathlib/RingTheory/Polynomial/Hilbert.lean (hunk 15 above)
Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean]: I have added `hilbert_poly_succ`. I will add the fact that it is `F`-linear in another PR.

File: Mathlib/RingTheory/Polynomial/Hilbert.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (FMLJohn) [reply Mathlib/RingTheory/Polynomial/Hilbert.lean]: Now it is clear that what we discuss here is beyond the scope of this pull request. I will close this conversation.

File: Mathlib/FieldTheory/RatFunc/Hilbert.lean [hunk 16]
```diff
@@ -0,0 +1,135 @@
...
+## TODO
+
+* Hilbert polynomials of finitely generated graded modules over Noetherian rings.
+-/
+
+open Nat Polynomial PowerSeries
+
+variable (F : Type*) [Field F]
+
+namespace RatFunc
```
Comment (jcommelin) [inline Mathlib/FieldTheory/RatFunc/Hilbert.lean:43]: I suggest removing this from the namespace, so that Hilbert polynomials will be `Polynomial.hilbert`.
But I'm happy to hear counterarguments!

Comment (FMLJohn) [reply Mathlib/FieldTheory/RatFunc/Hilbert.lean:43]: @kbuzzard and I suggest that the definition shouldn't be `Polynomial.hilbert`. This is because the thing I am constructing is not the Hilbert polynomial of some graded module. Rather, it is more like "the Hilbert polynomial with respect to some polynomial", but that does not exist in literature.

Comment (kbuzzard) [reply Mathlib/FieldTheory/RatFunc/Hilbert.lean:43]: What has a Hilbert polynomial? A graded algebra, a graded module over that graded algebra, a projective scheme, a coherent sheaf on that projective scheme. I thought it was a bit arrogant to "claim" `Polynomial.hilbert` for this arguably auxiliary notion, which was why I suggested it went in `RatFunc` because it's all about writing down a polynomial whose value at $n$ is the coefficient of $X^n$ in a certain rational function $P(X)/(1-X)^d$.

Comment (erdOne) [reply Mathlib/FieldTheory/RatFunc/Hilbert.lean:43]: I would suggest `RatFunc.hilbertPoly` instead, because `RatFunc.Polynomial.hilbert` is quite long.

Comment (FMLJohn) [reply Mathlib/FieldTheory/RatFunc/Hilbert.lean:43]: > I would suggest `RatFunc.hilbertPoly` instead, because `RatFunc.Polynomial.hilbert` is quite long.

Yeah I feel that this is a great idea!

Comment (kbuzzard) [reply Mathlib/FieldTheory/RatFunc/Hilbert.lean:43]: I would be happy with `Polynomial.hilbertPoly` or `RatFunc.hilbertPoly`. I was initially imagining `Scheme.Polynomial.hilbert` and was going to suggest `Polynomial.Polynomial.hilbert` but this sets off a linter! I also was a bit unsure about what would happen after `open Polynomial` :-)

Comment (FMLJohn) [reply Mathlib/FieldTheory/RatFunc/Hilbert.lean:43]: I guess `Polynomial.hilbertPoly` would be something we all agree on. So may I just take `Polynomial.hilbertPoly` to be the final name?

Comment (jcommelin) [reply Mathlib/FieldTheory/RatFunc/Hilbert.lean:43]: bors d+
